US06716853B2
Preparation of 2-(4′-Nitrobiphenyl-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline-3-(R)-carboxylic Acid
44.2 g (250 mmol) of 1,2,3,4-tetrahydroisoquinoline-3-(R)-carboxylic acid were dissolved in 500 ml of 1N aqueous sodium hydroxide solution and, while stirring, 150 g (300 mmol) of 4′-nitrobiphenyl-4-sulfonyl chloride dissolved in 500 ml of tetrahydrofuran were added. During this, the reaction temperature was kept below 25° C., and the pH of the solution was adjusted to pH 10 by adding 1N NaOH. The reaction mixture was stirred at room temperature for 12 hours (h).

reactant | 1,2,3,4-tetrahydroisoquinoline-3-(R)-carboxylic acid | 250 mmol, 44.2 g | C1N[C@H](CC2=CC=CC=C12)C(=O)O | C10H11NO2
reactant | 4′-nitrobiphenyl-4-sulfonyl chloride | 300 mmol, 150 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8ClNO4S
solvent | sodium hydroxide | 1N, 500 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | NaOH | 1N | [OH-].[Na+]
product | 2-(4′-Nitrobiphenyl-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline-3-(R)-carboxylic Acid | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N1CC2=CC=CC=C2C[C@@H]1C(=O)O | C22H18N2O6S
